US08283353B2
4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-2′-fluorobiphenyl-2-carbonitrile
A mixture of ethyl 2-[(2′-cyano-2-fluorobiphenyl-4-yl)methyl]-3-oxohexanoate (3.3 g) and N-(1,4-dioxaspiro[4.5]dec-8-yl)-4H-1,2,4-triazol-3-amine (1 g) was stirred at 250° C. for 1 hr under microwave irradiation. The reaction mixture was purified by silica gel column chromatography to give the title compound as a colorless solid (1.2 g, 50%).

reactant | ethyl 2-[(2′-cyano-2-fluorobiphenyl-4-yl)methyl]-3-oxohexanoate | 3.3 g | C(#N)C1=C(C=CC=C1)C1=C(C=C(C=C1)CC(C(=O)OCC)C(CCC)=O)F | C22H22FNO3
reactant | N-(1,4-dioxaspiro[4.5]dec-8-yl)-4H-1,2,4-triazol-3-amine | 1 g | O1CCOC12CCC(CC2)NC2=NN=CN2 | C10H16N4O2
product | 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-2′-fluorobiphenyl-2-carbonitrile | 1.2 g, 50% | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC(=C(C=C2)C=2C(=CC=CC2)C#N)F)CCC)N=CN1 | C30H30FN5O3
